US05635518
Sodium hydride (0.8 g, 20 mmol, 60% oil dispersion) was added portionwise to a stirred solution of 2-benzylphenol (1.8 g, 10 mmol) in toluene (30 ml) placed under an atmosphere of nitrogen. The mixture was stirred for 30 minutes and (R)-1-(2-bromoethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide (3.5 g, 10 mmol, EP 374801) was added portionwise. The reaction mixture was stirred for 2 h at ambient temperature and water (50 ml) was added. The phases were separated and the organic phase was extracted with a 10% citric acid solution (200 ml). This acidic solution was extracted with a small portion of toluene and the organic extracts were discarded. To the acidic aqueous phase 4N sodium hydroxide was added until pH 7-8 and the mixture was extracted with ethyl acetate (150 ml). The organic extract was dried (Na2SO4) and the solvent was evaporated in vacuo to give 1.7 g of (R)-1-(2-(2-benzylphenoxy)ethyl)-3-piperidine-carboxylic acid ethyl ester as an oil.

reactant | Sodium hydride | 20 mmol, 0.8 g | [H-].[Na+]
reactant | 2-benzylphenol | 10 mmol, 1.8 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)O | C13H12O
reactant | (R)-1-(2-bromoethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide | 10 mmol, 3.5 g | Br.C(C)OC(=O)[C@H]1CN(CCC1)CCBr
reactant | water | 50 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(2-(2-benzylphenoxy)ethyl)-3-piperidine-carboxylic acid ethyl ester | 1.7 g | C(C)OC(=O)[C@H]1CN(CCC1)CCOC1=C(C=CC=C1)CC1=CC=CC=C1 | C23H29NO3
